US04000143
Reaction of o-nitrobenzaldehyde (41.7 g., 0.276 mole) with N,N-diethyl-6-methylnicotinamide (53.1 g., 0.276 mole) in the presence of acetic anhydride (56.3 g., 0.552 mole) according to the method of L. Horwitz, J. Org. Chem., 21, 1039 (1956) provides 67.4 g. (75%) of N,N-diethyl-6-(o-nitrostyryl)-nicotinamide. Crystallization from acetonitrile affords the analytically pure nicotinamide having a melting point of 145°-147° C. (corr.).

reactant | o-nitrobenzaldehyde | 0.276 mole, 41.7 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | N,N-diethyl-6-methylnicotinamide | 0.276 mole, 53.1 g | C(C)N(C(C1=CN=C(C=C1)C)=O)CC | C11H16N2O
reactant | acetic anhydride | 0.552 mole, 56.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-diethyl-6-(o-nitrostyryl)-nicotinamide | C(C)N(C(C1=CN=C(C=C1)C=CC1=C(C=CC=C1)[N+](=O)[O-])=O)CC | C18H19N3O3
product | nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
